US09079866B2
6-((4′-(2-Aminopyrimidin-5-yl)-3′-fluoro-[1,1′-biphenyl]-2-yl)sulfonyl)-2-thia-6-azaspiro[3.3]heptane 2,2-dioxide
The title compound was prepared using analogous conditions to those described in Example 6 utilizing 6-((2-bromophenyl)sulfonyl)-2-thia-6-azaspiro[3.3]heptane 2,2-dioxide and 5-(2-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)pyrimidin-2-amine. MS (ESI): mass calcd. for C21H19FN4O4S2, 474.08; m/z found, 474.8 [M+H]+. 1H NMR (500 MHz, DMSO-d6) δ 8.56-8.50 (d, J=1.4, 2H), 8.05-7.99 (dd, J=8.0, 1.3, 1H), 7.80-7.73 (m, 1H), 7.69-7.60 (m, 2H), 7.48-7.43 (dd, J=7.6, 1.3, 1H), 7.38-7.32 (dd, J=11.8, 1.8, 1H), 7.31-7.26 (dd, J=7.9, 1.7, 1H), 6.90 (s, 2H), 4.32 (s, 4H), 3.76 (s, 4H).

reactant | 6-((2-bromophenyl)sulfonyl)-2-thia-6-azaspiro[3.3]heptane 2,2-dioxide | BrC1=C(C=CC=C1)S(=O)(=O)N1CC2(CS(C2)(=O)=O)C1 | C11H12BrNO4S2
reactant | 5-(2-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)pyrimidin-2-amine | FC1=C(C=CC(=C1)B1OC(C(O1)(C)C)(C)C)C=1C=NC(=NC1)N | C16H19BFN3O2
product | 6-((4′-(2-Aminopyrimidin-5-yl)-3′-fluoro-[1,1′-biphenyl]-2-yl)sulfonyl)-2-thia-6-azaspiro[3.3]heptane 2,2-dioxide | NC1=NC=C(C=N1)C1=C(C=C(C=C1)C1=C(C=CC=C1)S(=O)(=O)N1CC2(CS(C2)(=O)=O)C1)F | C21H19FN4O4S2
